US03943154
To an acetone solution of 10.4 g (0.05 mol) 2-cyanovinyl 4-aminophenyl sulfone is added 12.8 g (0.05 mol of 3-fluorosulfonylbenzenesulfonyl chloride at room temperature, with agitation. The sulfonyl chloride dissolves immediately, giving a clear yellow solution. To this mixture is added over a ten minute period an acetone solution of 1,4-diazabicyclo[2.2.2]-octane (11.2 g, 0.05 mol). A light yellow precipitate forms almost at once; the reaction mixture is maintained at about 25° C for 30 minutes with stirring. Precipitation in water and workup affords a bright yellow powder, 2-cyanovinyl 4-(3-fluorosulfonylbenzenesulfonamido)phenyl sulfone: ##SPC44##

reactant | 2-cyanovinyl 4-aminophenyl sulfone | 0.05 mol, 10.4 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | 3-fluorosulfonylbenzenesulfonyl chloride | 0.05 mol | FS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO4S2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1,4-diazabicyclo[2.2.2]-octane | 0.05 mol, 11.2 g | N12CCN(CC1)CC2 | C6H12N2
solvent | acetone | CC(=O)C | C3H6O
product | 2-cyanovinyl 4-(3-fluorosulfonylbenzenesulfonamido)phenyl sulfone | FS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C15H11FN2O6S3
